US07482341B2
1-(6-Amino-pyridin-2-yl)-pentan-2-one (0.15 g) in CH2Cl2 (5 mL) was treated at RT with 4-dimethylaminopyridine (0.103 g), 3-chloro-2-methyl-benzenesulfonyl chloride (0.208 g) and stirred at RT for 16 h. The mixture was partitioned between cold diluted aqueous HCl and AcOEt, the layers were separated, and the organic layer twice extracted with AcOEt. The combined organic layers were dried over Na2SO4, filtered and evaporated. From the residue was isolated by flash chromatography (heptane/EtOAc 1:1) the vinyl sulfonate 3-chloro-2-methyl-benzenesulfonic acid 1-[1-[6-(3-chloro-2-methyl-benzenesulfonylamino)-pyridin-2-yl]-meth-(Z)-ylidene]-butyl ester (23 mg) as an amorphous off-white solid (27 mg). MS (ESI−): 552.8 ([M−H]−).

reactant | 1-(6-Amino-pyridin-2-yl)-pentan-2-one | 0.15 g | NC1=CC=CC(=N1)CC(CCC)=O | C10H14N2O
reactant | 3-chloro-2-methyl-benzenesulfonyl chloride | 0.208 g | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.103 g | CN(C1=CC=NC=C1)C | C7H10N2
product | vinyl sulfonate 3-chloro-2-methyl-benzenesulfonic acid 1-[1-[6-(3-chloro-2-methyl-benzenesulfonylamino)-pyridin-2-yl]-meth-(Z)-ylidene]-butyl ester | 23 mg | ClC=1C(=C(C=CC1)S(=O)(=O)NC1=CC=CC(=N1)\C=C(\CCC)/OS(=O)(=O)C1=C(C(=CC=C1)Cl)C)C.C(=C)S(=O)(=O)O | InChI=1S/C24H24Cl2N2O5S2.C2H4O3S/c1-4-8-19(33-35(31,32)23-13-7-11-21(26)17(23)3)15-18-9-5-14-24(27-18)28-34(29,30)22-12-6-10-20(25)16(22)2;1-2-6(3,4)5/h5-7,9-15H,4,8H2,1-3H3,(H,27,28);2H,1H2,(H,3,4,5)/b19-15-;
